US07169778B2
a) 2-[[4-[3-(tert-Butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-8-cyclopentyl-8H-pteridin-7-one
A mixture of 0.70 g (1.5 mmol) of 5-amino-2-[[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)-pyrimidine, 0.52 g (4 mmol) of butyl glyoxylate (F. J. Wolf, J. Weijlard, Org. Synth. Coll., 1963;4:124–125) and 0.5 mL HOAc in 15 mL of EtOH is heated under reflux for 14 hours, and the solvent is removed under vacuum. The residue is diluted with aqueous ammonia solution and extracted into EtOAc. Chromatography on silica, eluting with hexane/EtOAc (3:2), gives 0.21 g (28%) of the title compound (Compound 53): mp (MeOH) 226–228° C.

reactant | 5-amino-2-[[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)-pyrimidine | 1.5 mmol, 0.70 g | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CC(CC1)NC(=O)OC(C)(C)C)NC1CCCC1 | C24H35N7O2
reactant | butyl glyoxylate | 4 mmol, 0.52 g | C(C=O)(=O)OCCCC | C6H10O3
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-[[4-[3-(tert-Butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-8-cyclopentyl-8H-pteridin-7-one | 0.21 g, 28% | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC=C(C=C1)NC1=NC=2N(C(C=NC2C=N1)=O)C1CCCC1 | C26H33N7O3
